US05041156
51.3 ml of a 2N solution of sodium methylate in methanol are added dropwise while stirring and cooling at 0° C. during 5 minutes to a solution of 42.4 g of isopropyl 2-chloro-5-[2-chloro-6-oxo-4-trifluoromethyl-1(6H)-pyrimidinyl]-4-fluorobenzoate in 100 ml of absolute methanol. The reaction mixture is stirred at 0° C. for 10 minutes and adjusted to about pH 4 with concentrated acetic acid. Subsequently, the reaction mixture is evaporated to dryness under reduced pressure. The residue is dissolved in 300 ml of diethyl ether and the solution is washed twice with 100 ml of water each time. The organic phase is dried over anhydrous sodium sulphate and evaporated to dryness. The residue is purified by chromatography on a silica gel column using n-hexane/diethyl ether (3:1) as the eluent and is subsequently recrystallized from n-hexane/diethyl ether. There is obtained isopropyl 2-chloro-4-fluoro-5-[2-methoxy-6-oxo-4-trifluoromethyl-1(6H)-pyrimidinyl]-benzoate, m.p. 121°-123° C.

reactant | sodium methylate | C[O-].[Na+]
reactant | isopropyl 2-chloro-5-[2-chloro-6-oxo-4-trifluoromethyl-1(6H)-pyrimidinyl]-4-fluorobenzoate | 42.4 g | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(=NC(=CC1=O)C(F)(F)F)Cl | C15H10Cl2F4N2O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | isopropyl 2-chloro-4-fluoro-5-[2-methoxy-6-oxo-4-trifluoromethyl-1(6H)-pyrimidinyl]-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(=NC(=CC1=O)C(F)(F)F)OC | C16H13ClF4N2O4
